US05233046
N-[(4-fluorophenyl)methylene]benzenamine
To 4-fluorobenzaldehyde (24.8 g, 0.200 mol) and aniline (18.6 g, 0.200 mol) was added benzene (200 mL) and acetic acid (0.7 mL) and the mixture is heated under reflux until all the water (3.6 mL) was azeotropically removed. The solvent is evaporated and the residual oil upon cooling and stirring crystallized. The white mass was then recrystallize as needles (28 g, 70%): mp 39°-40° C. (PE) (lit.1 mp 40° C.).

reactant | 4-fluorobenzaldehyde | 0.200 mol, 24.8 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | aniline | 0.200 mol, 18.6 g | NC1=CC=CC=C1 | C6H7N
reactant | benzene | 200 mL | C1=CC=CC=C1 | C6H6
reactant | acetic acid | 0.7 mL | C(C)(=O)O | C2H4O2
solvent | water | 3.6 mL | O | H2O
product | N-[(4-fluorophenyl)methylene]benzenamine | FC1=CC=C(C=C1)C=NC1=CC=CC=C1 | C13H10FN
